US04094913
1-Bromo-2,5-dichlorobenzene (100.0 grams) and sodium hydroxide dissolved in most of the methanol and the desired amount of water were charged into a one-liter stainless steel Magnedrive autoclave reactor equipped with a constant speed stirrer. The reaction mixture was then stirred, and a solution of the copper salt in the remainder of the methanol was added. In Runs 1 and 2 the copper salt was added to the reactor as a solid. Other additives, if used, were then added last of all. The bromodichlorobenzene used in all runs assayed from 98.5 to 99.7 percent by weight. The reactor was then sealed and pressurized to 180 pounds per square inch with nitrogen gas to prevent refluxing into the connecting lines. The reaction mixture was then heated to the desired temperature with stirring for a period of from 1 to 3 hours. After this time the reaction mixture was cooled to room temperature and was added to an equal amount of water. A small amount of caustic was then added to the mixture to prevent the loss of phenols during the first extraction. The reaction mixture was then extracted successively with pentane to remove unreacted starting material and undesired side reaction products. The remaining aqueous phase was then acidified to low pH with hydrochloric acid. The free phenol was then extracted successively with methylene chloride, and the combined extracts were dried over anhydrous sodium sulfate. The dried extracts were then stripped of solvent under reduced pressure (20 mm Hg) to yield the desired 2,5-dichlorophenol.

reactant | 1-Bromo-2,5-dichlorobenzene | 100.0 grams | BrC1=C(C=CC(=C1)Cl)Cl | C6H3BrCl2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromodichlorobenzene | BrC=1C(=C(C=CC1)Cl)Cl | C6H3BrCl2
reactant | hydrochloric acid | Cl | ClH
catalyst | copper | [Cu] | Cu
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2,5-dichlorophenol | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
